R1 (net37 net18) R=4.4E6
R2 ( net52 net42)  R=8.9E1
T3 ( net42 net31 vdd! vdd!)  pfet  L=2.66E-6 W=1.33E-6
T4 ( net4 net31 vdd! vdd!)  pfet  L=2.66E-6 W=1.33E-6
T5 ( 0 net42 net31 vdd!)  pfet  L=2.66E-6 W=1.33E-6
T6 (net40 net17 net17 0) nfet L=8.00E-6 W=9.15E-6
R7 (net20 net33) R=4.9E3
R8 ( net40 net53)  R=1.7E2
T9 ( net53 net2 vdd! vdd!)  pfet  L=6.35E-6 W=9.56E-6
T10 ( 0 net2 vdd! vdd!)  pfet  L=6.35E-6 W=9.56E-6
T11 ( 0 net53 net2 vdd!)  pfet  L=6.35E-6 W=9.56E-6
C12 (net6 net20) C=4.3E-11
T13 (net34 net36 net36 0) pfet L=8.40E-6 W=7.74E-6
T14 (vdd! net21 net21 0) pfet L=7.07E-6 W=2.88E-6
R15 (net19 net6) R=1.1E5
C16 (net44 net37) C=1.9E-10
T17 (net24 net21 net21 0) pfet L=7.02E-6 W=1.87E-6
T18 (net3 net9 net9 0) nfet L=9.07E-6 W=7.84E-6
R19 (net48 net40) R=3.8E1
R20 (net28 net1) R=6.3E3
T21 (net3 net16 net16 0) pfet L=1.24E-6 W=3.62E-6
R22 (net40 net30) R=5.2E5
R23 (net40 net1) R=6.1E1
R24 (net33 net43) R=2.3E1
T25 (net27 net33 net33 0) nfet L=7.42E-6 W=7.45E-6
T26 (net8 net12 net12 0) nfet L=4.84E-6 W=1.80E-6
R27 (net27 net17) R=2.1E6
T28 (net22 vdd! vdd! 0) nfet L=8.61E-6 W=7.95E-6
C29 (net1 net35) C=7.0E-12
R30 (net10 net30) R=3.0E5
T31 (net47 net41 net41 0) pfet L=1.37E-6 W=6.32E-6
C32 (net48 net37) C=4.2E-11
T33 (net5 0 0 0) pfet L=4.81E-6 W=0.35E-6
R34 (net29 net50) R=1.9E0
T35 (net38 net38 net38 0) nfet L=3.81E-6 W=5.26E-6
T36 (net17 net35 net35 0) pfet L=5.74E-6 W=4.08E-6
R37 (net25 net28) R=2.7E6
T38 (net27 net16 net16 0) pfet L=6.20E-6 W=1.67E-6
T39 (net15 0 0 0) pfet L=1.61E-6 W=8.04E-6
T40 (net24 net27 net27 0) nfet L=8.68E-6 W=6.85E-6
R41 (net8 net37) R=1.4E0
T42 (net37 net25 net25 0) nfet L=1.76E-6 W=1.84E-6
T43 (net9 net38 net38 0) pfet L=9.32E-6 W=6.33E-6
T44 (net14 net22 net22 0) pfet L=6.68E-6 W=6.52E-6
C45 (net22 net47) C=0.3E-11
C46 (net13 net14) C=8.4E-12
C47 (net38 net51) C=1.3E-5
R48 (net21 net41) R=2.7E2
C49 (net44 net23) C=6.8E-10
R50 (net3 net13) R=4.0E2
T51 (net11 net6 net6 0) pfet L=4.40E-6 W=4.94E-6
T52 (net38 net29 net29 0) nfet L=7.86E-6 W=3.84E-6
T53 (net51 net46 net46 0) nfet L=4.26E-6 W=8.66E-6
C54 (net35 net3) C=4.3E-14
R55 (net10 net36) R=9.6E2
T56 (net46 net4 net4 0) pfet L=4.52E-6 W=5.78E-6
C57 (net23 net45) C=9.2E-13
R58 (net47 net34) R=7.7E2
T59 (net34 net35 net35 0) pfet L=5.02E-6 W=3.27E-6
T60 (net9 net25 net25 0) nfet L=6.87E-6 W=9.10E-6
C61 (net28 net43) C=5.8E-6
R62 (net38 net41) R=4.2E4
R63 (net52 net11) R=9.5E1
C64 (net37 net52) C=8.3E-7
C65 (net40 net23) C=5.0E-7
T66 (net47 net36 net36 0) pfet L=9.04E-6 W=2.65E-6
C67 (net12 net30) C=3.2E-6
T68 (net28 net33 net33 0) nfet L=6.00E-6 W=7.34E-6
R69 (vdd! net23) R=2.5E2
T70 (net24 net39 net39 0) pfet L=1.40E-6 W=9.53E-6
T71 (vdd! net51 net51 0) nfet L=2.55E-6 W=1.14E-6
R72 (net3 net5) R=2.4E4
T73 (net32 net39 net39 0) nfet L=0.59E-6 W=3.99E-6
C74 (net3 net39) C=8.8E-13
T75 (net52 net11 net11 0) pfet L=7.27E-6 W=8.00E-6
R76 (net23 net47) R=9.5E6
R77 (net48 net44) R=7.7E0
C78 (vdd! 0) C=7.7E-13
T79 (0 net5 net5 0) pfet L=9.88E-6 W=5.28E-6
C80 (0 net14) C=2.4E-9
T81 (net45 net24 net24 0) pfet L=1.78E-6 W=2.91E-6
T82 (net26 net48 net48 0) nfet L=9.57E-6 W=7.21E-6
T83 (net8 net30 net30 0) nfet L=5.95E-6 W=7.74E-6
T84 (net30 net41 net41 0) pfet L=1.75E-6 W=0.73E-6
C85 (net9 net34) C=9.0E-11
T86 (net9 vdd! vdd! 0) nfet L=8.15E-6 W=0.13E-6
T87 (net48 net3 net3 0) nfet L=3.45E-6 W=6.67E-6
T88 (net3 net33 net33 0) nfet L=7.92E-6 W=0.67E-6
R89 (vdd! net41) R=0.7E3
C90 (net34 net17) C=4.3E-5
C91 (net38 net26) C=5.1E-7
T92 (net38 net39 net39 0) nfet L=4.34E-6 W=3.71E-6
T93 (net41 net27 net27 0) nfet L=7.67E-6 W=5.51E-6
T94 (net45 net34 net34 0) pfet L=2.17E-6 W=2.37E-6
T95 (net3 net12 net12 0) nfet L=6.12E-6 W=9.05E-6
R96 (net20 net37) R=1.7E0
C97 (net7 net12) C=3.7E-13
C98 (net5 net27) C=1.7E-11
R99 (net6 net23) R=8.7E5
C100 (net37 net39) C=4.0E-9
T101 (net11 net40 net40 0) nfet L=8.93E-6 W=8.75E-6
T102 (net23 vdd! vdd! 0) nfet L=4.12E-6 W=5.35E-6
T103 (vdd! net23 net23 0) pfet L=4.82E-6 W=7.25E-6
T104 (net50 0 0 0) pfet L=8.08E-6 W=6.10E-6
T105 (net11 net45 net45 0) nfet L=5.20E-6 W=2.04E-6
T106 (net48 net12 net12 0) nfet L=8.87E-6 W=3.09E-6
T107 (net6 net6 net6 0) nfet L=5.15E-6 W=0.39E-6
C108 (net21 net38) C=9.9E-12
R109 (net30 net12) R=1.4E0
C110 (net28 net25) C=5.2E-12
C111 (net24 net45) C=5.8E-11
R112 (net45 net19) R=2.1E2
C113 (net29 net52) C=7.9E-12
T114 (net3 net32 net32 0) pfet L=3.13E-6 W=4.78E-6
R115 (net25 net1) R=5.5E1
R116 (net34 net22) R=2.0E1
T117 (net40 net36 net36 0) nfet L=6.55E-6 W=9.09E-6
T118 (net47 net17 net17 0) pfet L=7.36E-6 W=0.39E-6
T119 (net24 net1 net1 0) nfet L=4.04E-6 W=0.93E-6
R120 (net43 net25) R=8.4E4
T121 (net44 net48 net48 0) pfet L=1.67E-6 W=1.76E-6
T122 (net17 net50 net50 0) pfet L=1.95E-6 W=9.83E-6
T123 (net13 net34 net34 0) pfet L=0.17E-6 W=2.86E-6
T124 (net19 net14 net14 0) pfet L=7.83E-6 W=4.35E-6
T125 (net25 0 0 0) nfet L=8.27E-6 W=7.64E-6
T126 (net37 net12 net12 0) pfet L=7.50E-6 W=8.53E-6
R127 (net33 net17) R=5.1E5
T128 (net26 net41 net41 0) pfet L=7.35E-6 W=7.73E-6
T129 (net12 net46 net46 0) pfet L=2.11E-6 W=3.69E-6
T130 (net19 net19 net19 0) nfet L=8.30E-6 W=5.89E-6
C131 (vdd! net24) C=3.1E-10
T132 (vdd! vdd! vdd! 0) pfet L=7.53E-6 W=4.29E-6
C133 (net4 net12) C=2.7E-5
R134 (net22 net33) R=6.7E4
T135 (net52 net20 net20 0) pfet L=0.51E-6 W=5.59E-6
T136 (net23 net24 net24 0) nfet L=2.71E-6 W=5.14E-6
T137 (net1 net12 net12 0) pfet L=4.25E-6 W=0.86E-6
T138 (net24 net37 net37 0) nfet L=7.26E-6 W=8.35E-6
R139 (net29 net24) R=5.7E6
T140 (net38 vdd! vdd! 0) nfet L=6.76E-6 W=0.21E-6
T141 (net22 net32 net32 0) pfet L=9.99E-6 W=7.00E-6
R142 (net28 net17) R=7.2E4
T143 (net21 net45 net45 0) pfet L=7.88E-6 W=0.75E-6
R144 (net23 net20) R=1.7E5
C145 (net33 vdd!) C=9.0E-7
C146 (net12 net5) C=5.8E-9
T147 (net36 net50 net50 0) nfet L=8.97E-6 W=9.36E-6
R148 (net45 net44) R=0.3E1
T149 (net6 0 0 0) nfet L=2.25E-6 W=4.80E-6
C150 (net5 net20) C=2.6E-5
C151 (net10 net47) C=0.2E-5
C152 (net34 net12) C=2.5E-9
T153 (net12 0 0 0) pfet L=7.83E-6 W=5.25E-6
T154 (net39 net28 net28 0) nfet L=0.50E-6 W=2.28E-6
R155 (net22 net12) R=8.3E6
C156 (net6 net20) C=3.7E-12
C157 (net39 net13) C=1.9E-7
C158 (net39 net41) C=6.5E-14
R159 (net4 net38) R=3.7E2
R160 (vdd! net8) R=8.1E3
T161 (vdd! vdd! vdd! 0) nfet L=6.63E-6 W=9.27E-6
T162 (net52 net4 net4 0) pfet L=9.25E-6 W=1.07E-6
T163 (net9 net11 net11 0) nfet L=4.99E-6 W=9.07E-6
R164 (net5 net32) R=2.4E3
C165 (net5 net37) C=4.8E-6
R166 (net43 0) R=2.3E5
T167 (net45 net38 net38 0) nfet L=2.40E-6 W=5.66E-6
T168 (net22 net34 net34 0) pfet L=7.55E-6 W=0.94E-6
C169 (net37 net3) C=3.5E-11
T170 (net30 net5 net5 0) nfet L=9.39E-6 W=6.82E-6
T171 (net1 net23 net23 0) nfet L=2.20E-6 W=4.18E-6
T172 (net25 net47 net47 0) nfet L=6.41E-6 W=4.88E-6
T173 (net7 net20 net20 0) pfet L=3.63E-6 W=8.19E-6
C174 (net43 net7) C=9.2E-5
C175 (net14 net18) C=1.1E-12
T176 (vdd! net35 net35 0) pfet L=9.32E-6 W=8.98E-6
C177 (net27 net36) C=3.9E-10
T178 (net39 net19 net19 0) nfet L=2.82E-6 W=1.40E-6
R179 (net20 net12) R=9.2E3
R180 (net49 net48) R=5.5E3
R181 (net44 net16) R=8.7E1
T182 (net3 net17 net17 0) pfet L=0.93E-6 W=1.16E-6
C183 (net21 net20) C=8.5E-10
C184 (net52 0) C=3.6E-11
T185 (net50 net39 net39 0) nfet L=5.86E-6 W=8.00E-6
T186 (net8 vdd! vdd! 0) nfet L=8.50E-6 W=4.56E-6
T187 (net11 net12 net12 0) nfet L=6.53E-6 W=5.31E-6
T188 (net5 net14 net14 0) pfet L=7.47E-6 W=7.74E-6
C189 (net27 net25) C=2.6E-10
T190 (net30 net35 net35 0) nfet L=5.25E-6 W=4.79E-6
T191 (net45 net19 net19 0) pfet L=9.89E-6 W=5.87E-6
T192 (net52 net48 net48 0) pfet L=0.46E-6 W=4.79E-6
T193 (net11 net8 net8 0) pfet L=9.54E-6 W=5.44E-6
T194 (net10 vdd! vdd! 0) nfet L=9.39E-6 W=9.23E-6
T195 (net34 net41 net41 0) nfet L=0.54E-6 W=5.86E-6
T196 (vdd! net29 net29 0) nfet L=9.15E-6 W=4.85E-6
C197 (net47 net10) C=3.5E-7
C198 (net7 net19) C=9.8E-9
T199 (net24 net41 net41 0) pfet L=9.86E-6 W=5.86E-6
T200 (net27 net16 net16 0) pfet L=2.57E-6 W=3.41E-6
T201 (net9 net14 net14 0) nfet L=8.00E-6 W=7.65E-6
T202 (0 0 0 0) pfet L=9.47E-6 W=2.96E-6
C203 (net8 vdd!) C=2.7E-7

