R1 ( net7 net2)  R=2.1E5
T2 ( net2 net2 vdd! vdd!)  pfet  L=2.74E-6 W=0.83E-6
T3 ( net14 net2 vdd! vdd!)  pfet  L=2.74E-6 W=0.83E-6
T4 (net8 net4 net4 0) pfet L=9.89E-6 W=6.46E-6
T5 ( net13 net13 vdd! vdd!)  pfet  L=8.76E-6 W=0.55E-6
T6 ( net5 net13 vdd! vdd!)  pfet  L=8.76E-6 W=0.55E-6
R7 ( net5 net7)  R=6.8E1
C8 (vdd! net3) C=4.3E-9
T9 (net7 net14 net14 0) pfet L=3.22E-6 W=1.87E-6
T10 (net12 net13 net13 0) pfet L=3.37E-6 W=3.77E-6

