R1 (net63 net44) R=1.6E1
T2 ( 0 0 0 0)  nfet  L=7.15E-6 W=4.65E-6
T3 ( net68 0 0 0)  nfet  L=7.15E-6 W=4.65E-6
R4 ( net68 net62)  R=2.1E5
T5 (net11 net20 net20 0) pfet L=2.59E-6 W=2.53E-6
T6 (net23 net62 net62 0) pfet L=6.33E-6 W=5.04E-6
T7 (net14 net63 net63 0) nfet L=3.21E-6 W=7.58E-6
T8 (net33 net29 net29 0) nfet L=5.73E-6 W=5.47E-6
R9 ( vdd! net18)  R=7.7E2
T10 ( net18 net67 0 0)  nfet  L=8.09E-6 W=2.49E-6
T11 ( net61 net67 0 0)  nfet  L=8.09E-6 W=2.49E-6
T12 ( vdd! net18 net67 0)  nfet  L=8.09E-6 W=2.49E-6
C13 (net63 net61) C=2.1E-6
T14 (net44 net52 net52 0) nfet L=2.05E-6 W=3.65E-6
T15 (net13 vdd! vdd! 0) nfet L=1.20E-6 W=9.74E-6
C16 (net21 net53) C=8.8E-13
C17 (net20 vdd!) C=7.8E-14
R18 (net19 net42) R=0.7E1
R19 (net6 net9) R=7.2E6
T20 (net35 net15 net15 0) nfet L=9.23E-6 W=7.31E-6
R21 (net50 net58) R=4.3E3
T22 (net41 net23 net23 0) pfet L=5.63E-6 W=0.60E-6
T23 (net24 net23 net23 0) pfet L=5.73E-6 W=9.50E-6
T24 (net24 net5 net5 0) nfet L=6.93E-6 W=2.06E-6
T25 (net49 0 0 0) nfet L=1.02E-6 W=5.29E-6
T26 (net9 vdd! vdd! 0) pfet L=2.33E-6 W=3.03E-6
C27 (0 net10) C=5.1E-11
T28 (net10 net66 net66 0) pfet L=0.18E-6 W=4.86E-6
T29 (net56 net7 net7 0) pfet L=1.59E-6 W=9.36E-6
T30 (net59 0 0 0) pfet L=4.94E-6 W=0.30E-6
C31 (net31 net61) C=7.0E-14
T32 (net7 net10 net10 0) nfet L=7.89E-6 W=8.10E-6
T33 (net15 net2 net2 0) nfet L=5.30E-6 W=9.25E-6
R34 (net57 net26) R=2.8E5
T35 (net60 net2 net2 0) pfet L=3.74E-6 W=7.38E-6
R36 (net61 0) R=3.3E4
T37 (net38 0 0 0) nfet L=9.39E-6 W=9.55E-6
C38 (0 net55) C=4.5E-14
C39 (net2 net63) C=1.3E-14
T40 (net19 net63 net63 0) pfet L=6.48E-6 W=2.06E-6
C41 (net31 net36) C=8.5E-9
T42 (net27 vdd! vdd! 0) pfet L=5.54E-6 W=5.55E-6
R43 (net28 net36) R=1.6E6
R44 (net65 net16) R=7.5E3
T45 (net19 net34 net34 0) nfet L=3.91E-6 W=3.96E-6
R46 (0 net28) R=0.3E3
T47 (net6 net42 net42 0) pfet L=9.72E-6 W=3.39E-6
R48 (net22 net15) R=1.4E4
T49 (net12 net33 net33 0) pfet L=4.93E-6 W=9.49E-6
T50 (net23 net50 net50 0) pfet L=7.97E-6 W=2.01E-6
T51 (net25 net59 net59 0) nfet L=2.81E-6 W=0.17E-6
T52 (net2 net1 net1 0) pfet L=9.18E-6 W=1.07E-6
T53 (0 0 0 0) nfet L=0.42E-6 W=1.53E-6
T54 (net12 net58 net58 0) pfet L=5.38E-6 W=7.31E-6
T55 (net62 vdd! vdd! 0) pfet L=1.31E-6 W=6.87E-6
T56 (vdd! 0 0 0) pfet L=3.62E-6 W=1.81E-6
T57 (net5 net66 net66 0) nfet L=1.64E-6 W=7.07E-6
T58 (net26 net27 net27 0) pfet L=0.18E-6 W=2.27E-6
T59 (net34 net55 net55 0) nfet L=1.74E-6 W=5.44E-6
T60 (net65 net46 net46 0) nfet L=2.96E-6 W=2.63E-6
R61 (net25 net46) R=5.7E3
T62 (vdd! net48 net48 0) pfet L=2.92E-6 W=8.01E-6
T63 (net1 net4 net4 0) pfet L=7.40E-6 W=8.10E-6
T64 (net46 net31 net31 0) nfet L=0.71E-6 W=4.63E-6
C65 (net6 net7) C=3.0E-13
T66 (vdd! net4 net4 0) pfet L=0.31E-6 W=0.28E-6
T67 (net39 net42 net42 0) nfet L=1.72E-6 W=8.12E-6
C68 (net47 net7) C=9.6E-13
C69 (net2 net21) C=2.2E-13
T70 (net31 net22 net22 0) nfet L=5.54E-6 W=8.08E-6
C71 (net55 net47) C=3.4E-13
R72 (net3 net23) R=8.7E0
T73 (net65 net39 net39 0) nfet L=5.63E-6 W=1.18E-6
T74 (vdd! vdd! vdd! 0) pfet L=2.73E-6 W=1.47E-6
T75 (net39 net29 net29 0) nfet L=3.42E-6 W=9.28E-6
T76 (net1 vdd! vdd! 0) nfet L=2.00E-6 W=1.02E-6
C77 (net27 net61) C=3.6E-6
R78 (net48 0) R=6.1E2
T79 (net2 net12 net12 0) nfet L=9.68E-6 W=7.15E-6
C80 (vdd! net15) C=5.1E-13
R81 (net47 0) R=9.2E2
C82 (net56 net20) C=7.4E-6
C83 (net25 vdd!) C=6.1E-8
C84 (net50 net54) C=3.9E-10
C85 (net40 net6) C=6.9E-7
C86 (net65 net1) C=7.8E-5
T87 (net30 net64 net64 0) nfet L=1.09E-6 W=2.18E-6
T88 (net64 net14 net14 0) pfet L=6.56E-6 W=5.27E-6
T89 (net53 net58 net58 0) pfet L=5.27E-6 W=3.89E-6
C90 (net27 net43) C=2.2E-8
C91 (net8 net16) C=1.2E-13
C92 (0 net61) C=9.8E-10
R93 (net21 net23) R=5.7E2
T94 (net61 net34 net34 0) nfet L=8.48E-6 W=6.20E-6
T95 (net50 net11 net11 0) nfet L=8.02E-6 W=6.70E-6
R96 (net45 net2) R=0.4E1
C97 (net2 net7) C=2.7E-13
R98 (net64 net40) R=8.7E0
T99 (net4 net15 net15 0) nfet L=6.67E-6 W=1.46E-6
T100 (net12 net61 net61 0) nfet L=5.52E-6 W=7.96E-6
C101 (net13 net30) C=3.3E-5
R102 (0 net13) R=0.5E5
C103 (0 net51) C=1.5E-5
T104 (net40 net8 net8 0) nfet L=4.01E-6 W=3.12E-6
C105 (net32 net60) C=3.1E-10
T106 (net4 net4 net4 0) pfet L=0.93E-6 W=4.08E-6
T107 (net23 net29 net29 0) pfet L=5.49E-6 W=4.96E-6
C108 (net16 net20) C=8.9E-6
T109 (net54 net46 net46 0) nfet L=0.31E-6 W=7.90E-6
T110 (net49 net23 net23 0) pfet L=2.61E-6 W=4.32E-6
T111 (net63 net43 net43 0) pfet L=1.94E-6 W=8.96E-6
R112 (net58 net10) R=7.5E3
R113 (net53 net12) R=8.3E4
C114 (net23 net58) C=8.0E-14
T115 (net4 net2 net2 0) pfet L=8.27E-6 W=7.81E-6
C116 (net3 net11) C=6.6E-9
C117 (net23 net5) C=1.8E-14
T118 (net58 net45 net45 0) nfet L=0.35E-6 W=9.57E-6
R119 (net24 net41) R=6.6E2
T120 (net66 net61 net61 0) nfet L=9.56E-6 W=5.22E-6
T121 (net61 net34 net34 0) pfet L=0.34E-6 W=9.48E-6
T122 (net6 net51 net51 0) nfet L=0.62E-6 W=8.14E-6
T123 (0 net23 net23 0) nfet L=9.78E-6 W=1.53E-6
R124 (vdd! net13) R=3.2E2

