R1 (net15 net35) R=2.2E2
T2 (net13 net42 net42 0) nfet L=5.57E-6 W=1.81E-6
T3 (net46 net34 net34 0) nfet L=1.08E-6 W=9.00E-6
R4 (net27 net41) R=9.9E5
C5 (0 net19) C=8.8E-12
T6 (net25 net5 net5 0) nfet L=1.12E-6 W=0.20E-6
C7 (net12 net17) C=4.7E-7
T8 ( net17 net17 vdd! vdd!)  pfet  L=3.71E-6 W=5.04E-6
T9 ( net35 net17 vdd! vdd!)  pfet  L=3.71E-6 W=5.04E-6
R10 ( net35 net43)  R=9.5E0
C11 (net1 vdd!) C=3.4E-11
T12 (vdd! 0 0 0) pfet L=0.35E-6 W=1.90E-6
C13 (net43 net19) C=9.2E-10
R14 ( net34 net28)  R=8.2E5
T15 ( net28 net15 vdd! vdd!)  pfet  L=6.28E-6 W=5.84E-6
T16 ( net5 net15 vdd! vdd!)  pfet  L=6.28E-6 W=5.84E-6
T17 ( 0 net28 net15 vdd!)  pfet  L=6.28E-6 W=5.84E-6
T18 (net40 net6 net6 0) pfet L=8.78E-6 W=3.65E-6
T19 (net39 net9 net9 0) nfet L=0.54E-6 W=6.78E-6
T20 (net45 net7 net7 0) nfet L=1.84E-6 W=3.52E-6
R21 (net6 net23) R=9.3E2
T22 (net32 net48 net48 0) nfet L=9.69E-6 W=7.00E-6
R23 (net43 net49) R=8.1E1
R24 (net3 net22) R=8.6E5
T25 (net2 net21 net21 0) pfet L=8.38E-6 W=7.23E-6
C26 (0 net33) C=1.3E-6
T27 (0 net37 net37 0) nfet L=1.20E-6 W=4.66E-6
R28 (net49 net40) R=4.2E4
T29 (0 net34 net34 0) nfet L=3.35E-6 W=8.20E-6
R30 (net34 net2) R=5.6E3
C31 (net34 net18) C=7.2E-9
T32 (net10 net11 net11 0) nfet L=2.96E-6 W=5.31E-6
T33 (net47 net4 net4 0) nfet L=2.65E-6 W=9.62E-6
T34 (net26 0 0 0) nfet L=8.38E-6 W=3.71E-6
C35 (net41 net38) C=9.5E-12
T36 (0 net19 net19 0) nfet L=2.43E-6 W=0.87E-6
R37 (net16 net5) R=9.1E1
T38 (net38 net49 net49 0) pfet L=1.35E-6 W=6.92E-6
R39 (net19 net13) R=3.3E2
C40 (net48 net8) C=6.0E-8
T41 (net14 0 0 0) pfet L=8.73E-6 W=3.42E-6
C42 (net47 net19) C=4.6E-8
T43 (net17 net16 net16 0) nfet L=2.86E-6 W=7.75E-6
T44 (net47 net14 net14 0) pfet L=3.02E-6 W=3.02E-6
T45 (net25 net18 net18 0) pfet L=6.42E-6 W=0.74E-6
T46 (vdd! net34 net34 0) pfet L=3.35E-6 W=7.74E-6
C47 (net9 net11) C=4.6E-13
T48 (net20 0 0 0) pfet L=2.20E-6 W=6.74E-6
R49 (net31 net20) R=6.0E1
T50 (net30 net31 net31 0) pfet L=4.73E-6 W=3.13E-6
R51 (net30 net22) R=3.3E4
T52 (net18 0 0 0) pfet L=2.40E-6 W=2.38E-6
C53 (net23 net14) C=5.8E-5
C54 (net44 net17) C=8.4E-9
T55 (net13 net21 net21 0) nfet L=9.11E-6 W=8.50E-6
R56 (net2 net12) R=9.0E6
R57 (net4 net44) R=9.1E5
R58 (net7 net44) R=6.1E0
R59 (net2 net22) R=7.9E5
T60 (net49 net43 net43 0) pfet L=3.71E-6 W=0.26E-6
R61 (net2 net18) R=7.4E1
R62 (net11 net26) R=5.3E0
T63 (0 net26 net26 0) nfet L=4.72E-6 W=9.73E-6
T64 (net1 net32 net32 0) pfet L=1.18E-6 W=2.41E-6
T65 (0 vdd! vdd! 0) pfet L=7.60E-6 W=9.88E-6
C66 (net44 net16) C=8.9E-10
T67 (net47 net41 net41 0) nfet L=5.16E-6 W=0.21E-6
R68 (net46 net7) R=3.1E3
T69 (net12 net11 net11 0) pfet L=2.57E-6 W=1.65E-6
R70 (net6 net50) R=2.0E0
T71 (net29 net3 net3 0) pfet L=8.25E-6 W=6.12E-6
R72 (net21 net37) R=4.3E2
R73 (net38 net25) R=3.1E5
R74 (net12 net33) R=8.1E4
C75 (net22 net30) C=8.3E-6
T76 (0 net21 net21 0) nfet L=4.78E-6 W=6.56E-6
R77 (net34 net41) R=8.4E5
C78 (net32 net8) C=7.6E-6
T79 (0 net6 net6 0) pfet L=7.70E-6 W=3.05E-6
R80 (net16 net13) R=8.3E1
R81 (net30 net2) R=1.8E1
T82 (net37 net21 net21 0) pfet L=2.35E-6 W=2.36E-6
T83 (net22 net34 net34 0) nfet L=9.76E-6 W=2.51E-6
T84 (vdd! net2 net2 0) nfet L=8.90E-6 W=9.70E-6
C85 (net50 net31) C=2.8E-6
T86 (net27 net27 net27 0) nfet L=8.36E-6 W=3.09E-6
T87 (net37 net21 net21 0) pfet L=7.05E-6 W=0.24E-6
T88 (net41 net1 net1 0) pfet L=2.73E-6 W=6.93E-6
T89 (net7 net20 net20 0) nfet L=1.41E-6 W=7.29E-6
R90 (net21 net50) R=2.3E2
T91 (net2 net6 net6 0) pfet L=9.04E-6 W=9.78E-6
C92 (net27 net44) C=3.1E-13
T93 (net33 0 0 0) pfet L=2.31E-6 W=4.28E-6
C94 (net43 net31) C=7.4E-8
T95 (net41 net10 net10 0) nfet L=7.61E-6 W=2.63E-6
R96 (net39 net10) R=0.7E2
C97 (net31 net4) C=7.0E-12
T98 (0 net19 net19 0) pfet L=9.65E-6 W=3.36E-6
T99 (net36 net17 net17 0) pfet L=2.09E-6 W=0.34E-6
T100 (net7 net45 net45 0) pfet L=5.67E-6 W=2.27E-6
T101 (net32 net42 net42 0) nfet L=1.14E-6 W=3.46E-6
C102 (vdd! net32) C=5.3E-9
T103 (net42 net45 net45 0) nfet L=6.77E-6 W=4.03E-6
R104 (net17 net26) R=4.1E6
R105 (net49 net2) R=4.0E2
C106 (net48 net11) C=3.2E-8
C107 (net49 net34) C=1.1E-12
C108 (net46 net21) C=8.4E-13
C109 (vdd! net18) C=2.1E-9
T110 (net11 net50 net50 0) pfet L=4.69E-6 W=0.32E-6
T111 (net5 net14 net14 0) pfet L=5.36E-6 W=1.01E-6
C112 (net22 net30) C=1.7E-14
R113 (net20 net49) R=1.8E3
C114 (net29 net45) C=8.8E-9
T115 (net32 net40 net40 0) pfet L=7.17E-6 W=9.74E-6
T116 (net19 net32 net32 0) nfet L=0.87E-6 W=3.95E-6
T117 (net21 net41 net41 0) nfet L=7.07E-6 W=3.69E-6
C118 (net41 net38) C=2.4E-13
T119 (net5 net8 net8 0) pfet L=9.34E-6 W=2.01E-6
T120 (net6 net18 net18 0) nfet L=4.31E-6 W=3.35E-6
R121 (net37 net27) R=9.7E4
R122 (net34 net13) R=7.7E5
R123 (vdd! net43) R=4.4E6
T124 (net16 net13 net13 0) pfet L=7.65E-6 W=1.85E-6
C125 (net43 net1) C=2.4E-5
T126 (net29 net34 net34 0) pfet L=0.62E-6 W=2.07E-6
T127 (net4 net5 net5 0) nfet L=9.18E-6 W=3.31E-6

