T1 (net6 net19 net19 0) nfet L=6.56E-6 W=8.02E-6
R2 ( net32 net8)  R=7.3E1
T3 ( net8 net8 net20 vdd!)  pfet  L=8.29E-6 W=9.57E-6
T4 ( net20 net35 vdd! vdd!)  pfet  L=8.29E-6 W=9.57E-6
T5 ( net35 net35 vdd! vdd!)  pfet  L=8.29E-6 W=9.57E-6
T6 ( net21 net8 net35 vdd!)  pfet  L=8.29E-6 W=9.57E-6
C7 (net32 net22) C=9.5E-9
R8 ( net41 net17)  R=5.8E0
T9 ( net17 net32 vdd! vdd!)  pfet  L=3.96E-6 W=3.44E-6
T10 ( net49 net32 vdd! vdd!)  pfet  L=3.96E-6 W=3.44E-6
T11 ( 0 net17 net32 vdd!)  pfet  L=3.96E-6 W=3.44E-6
C12 (net29 net36) C=0.8E-8
C13 (net55 net48) C=3.2E-6
R14 (net50 net42) R=5.7E5
R15 (net13 net37) R=2.2E5
C16 (net30 net19) C=7.0E-6
C17 (net16 net4) C=8.3E-7
T18 (net9 net45 net45 0) pfet L=4.52E-6 W=2.93E-6
T19 (net33 net21 net21 0) nfet L=1.92E-6 W=1.92E-6
R20 (net43 net45) R=5.5E5
R21 (net19 net56) R=4.8E2
T22 (net9 net50 net50 0) pfet L=2.31E-6 W=3.61E-6
R23 (net7 net56) R=3.9E6
C24 (net2 net25) C=8.9E-6
C25 (net21 net36) C=0.3E-10
T26 (net38 net53 net53 0) nfet L=3.84E-6 W=2.11E-6
C27 (net29 net38) C=6.4E-8
T28 (net18 net3 net3 0) pfet L=3.32E-6 W=8.02E-6
T29 (net44 vdd! vdd! 0) pfet L=2.03E-6 W=3.02E-6
C30 (net18 0) C=4.8E-8
T31 (net56 net41 net41 0) pfet L=4.31E-6 W=6.67E-6
R32 (vdd! net27) R=8.8E2
T33 (net18 0 0 0) nfet L=7.61E-6 W=4.22E-6
T34 (net10 net52 net52 0) nfet L=5.36E-6 W=9.44E-6
C35 (net12 0) C=6.0E-7
T36 (net3 net29 net29 0) nfet L=3.96E-6 W=9.20E-6
R37 (net56 net1) R=8.5E3
R38 (net55 net57) R=2.4E4
R39 (net21 net10) R=10.0E0
C40 (net28 net29) C=0.5E-6
C41 (net31 net56) C=5.1E-13
T42 (net43 net34 net34 0) nfet L=6.66E-6 W=5.24E-6
C43 (net56 net4) C=7.6E-8
R44 (net13 net9) R=3.7E4
R45 (net44 net3) R=2.7E1
T46 (net47 net11 net11 0) nfet L=6.26E-6 W=3.49E-6
T47 (net10 net7 net7 0) pfet L=1.95E-6 W=6.07E-6
R48 (net43 net51) R=6.8E3
T49 (net43 net53 net53 0) pfet L=3.17E-6 W=1.52E-6
T50 (net12 net7 net7 0) pfet L=3.14E-6 W=6.34E-6
T51 (net6 net22 net22 0) nfet L=9.85E-6 W=2.45E-6
R52 (net14 net53) R=5.0E1
C53 (net36 net48) C=8.4E-11
T54 (net27 net22 net22 0) pfet L=1.68E-6 W=7.43E-6
T55 (net7 net15 net15 0) pfet L=3.25E-6 W=8.34E-6
T56 (net49 net26 net26 0) nfet L=2.26E-6 W=4.44E-6
R57 (net30 vdd!) R=1.4E3
T58 (net29 net54 net54 0) nfet L=7.59E-6 W=7.12E-6
T59 (net18 net57 net57 0) nfet L=3.58E-6 W=6.56E-6
C60 (vdd! net53) C=5.4E-13
R61 (net9 vdd!) R=5.7E6
T62 (net49 net46 net46 0) pfet L=3.74E-6 W=2.66E-6
R63 (0 net27) R=4.4E2
C64 (net22 net43) C=9.4E-13
R65 (net42 net56) R=4.9E4
T66 (net40 0 0 0) nfet L=7.20E-6 W=4.21E-6
T67 (net53 net22 net22 0) nfet L=6.99E-6 W=3.44E-6
C68 (net2 0) C=1.3E-6
R69 (net46 net7) R=5.5E6
T70 (net1 net43 net43 0) nfet L=5.19E-6 W=8.19E-6
C71 (net33 net29) C=7.3E-6
C72 (net53 net13) C=0.7E-9
C73 (net10 net38) C=8.7E-10
C74 (net48 net28) C=9.8E-9
R75 (net52 net56) R=4.4E2
T76 (net46 net54 net54 0) nfet L=4.53E-6 W=7.49E-6
R77 (net1 net41) R=1.7E1
T78 (net4 net3 net3 0) nfet L=6.90E-6 W=7.77E-6
T79 (net39 net23 net23 0) pfet L=7.93E-6 W=9.20E-6
T80 (net18 net10 net10 0) pfet L=7.62E-6 W=5.64E-6
R81 (net12 net55) R=7.4E6
C82 (net26 net34) C=1.5E-13
T83 (net13 net18 net18 0) nfet L=7.87E-6 W=9.34E-6
R84 (net49 net50) R=9.6E3
R85 (net11 net54) R=1.0E2
T86 (net24 net12 net12 0) pfet L=1.02E-6 W=0.56E-6

